data/mechanisms/records/IMS8-EQ8.2j.json
{"mechanism_id": "IMS8-EQ8.2j", "species": [{"species_id": "propene_radical_cation", "mapped_smiles": "[CH2:1]([1H:9])[CH:2][CH2+:3]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "allyl_cation", "mapped_smiles": "[CH2:1]=[CH:2][CH2+:3]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "hydrogen_atom", "mapped_smiles": "[1H:9]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["propene_radical_cation"]}, {"state_id": "state_products", "species_ids": ["allyl_cation", "hydrogen_atom"]}], "steps": [{"step_id": "step_alpha_3_8", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 9]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 9]}, "target": {"type": "atom", "atom_maps": [9]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_j", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_3_8", "support_type": "textbook_proposed", "locator": {"page": 138, "equation": "8.2", "figure": null, "panel": null, "section": "Eq. 8.2, arrow 3.8, alpha (secondary: C3H6+. -> C3H5+ + .H)"}, "confidence": 0.8, "curator_note": "Secondary fragmentation of the m/z-42 propene radical cation: radical-site alpha cleavage expels a hydrogen atom (.H) and forms the resonance-stabilised allyl cation C3H5+ (m/z 41, 10%). The precursor is encoded in its CH3-CH(.)-CH2+ localisation (radical on C2, charge on C3); one C1-H (H9) is made explicit as the bond that breaks. Book draws 0 electron-pushing arcs: Eq. 8.2 is a thermochemical fragmentation map (log k printed above each reaction arrow, heats of formation printed below each species), not a curved-arrow figure. All electron moves here are curator-inferred from the mechanism-type label printed under the reaction arrow; none is drawn on the page. Canonical THREE fishhooks: move<1> C2 odd electron into the forming C1=C2 pi bond; move<2> one C1-H9 electron completes C1=C2; move<3> the other C1-H9 electron onto H9 (the departing H atom)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 100.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_41", "species_id": "allyl_cation", "step_id": "step_alpha_3_8", "observed_mz": 41.0386, "relative_intensity": 0.1, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
